US06667322B2
To a solution of [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.348 g, 1.00 mmol) in methyl sulfoxide (20 mL) was added 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.865 g, 4.00 mmol) and the reaction mixture was heated to 80° C. for 12 h. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (200 mL), washed with water (2×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 4:1) followed by recrystallization from ethanol provided 0.271 g (69%, 40% ee) of 5-fluoro-3-(1-{[(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole as a tan crystalline powder. [α]D25=−22.05 (c 9.98 in chloroform, 40% ee); Rf=0.49 (silica, ethyl acetate:hexanes 4:1); mp 177-180° C. dec; Anal. Calcd. for C24H25FN2O2: C, 73.45; H, 6.42; N, 7.14. Found: C, 73.03; H, 6.49; N, 7.12.

reactant | [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 1.00 mmol, 0.348 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)OC | C18H20O5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.00 mmol, 0.865 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-3-(1-{[(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 0.271 g, 69% | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C[C@@H]1OC2=C(C=CC=C2CC1)OC | C24H25FN2O2
